US06407096B1
Methyl(3-(2-(1,1-diphenylethylthio)ethyl)-2,3-dihydrobenzofuran-7-yloxy)acetate
The same process as Example 17 was repeated except that methyl (3-(2-(methanesulfonyloxy)ethyl)benzofuran-7-yloxy)acetate (284 mg) and 1,1-diphenylethanethiol (240 mg) were used to obtain the object compound (310 mg, yield 95%).

reactant | methyl (3-(2-(methanesulfonyloxy)ethyl)benzofuran-7-yloxy)acetate | 284 mg | CS(=O)(=O)OCCC1=COC2=C1C=CC=C2OCC(=O)OC | C14H16O7S
reactant | 1,1-diphenylethanethiol | 240 mg | C1(=CC=CC=C1)C(C)(S)C1=CC=CC=C1 | C14H14S
product | Methyl(3-(2-(1,1-diphenylethylthio)ethyl)-2,3-dihydrobenzofuran-7-yloxy)acetate | 310 mg, yield 95% | COC(COC1=CC=CC=2C(COC21)CCSC(C)(C2=CC=CC=C2)C2=CC=CC=C2)=O | C27H28O4S
